US04337267
Sodium 2-[4-(3-trifluoromethylphenoxy)butyl]oxirane-2-carboxylate
4.0 g of 2-[4-(3-trifluoromethylphenoxy)butyl]oxirane-2-carboxylic acid ethyl ester, 12 ml of 1 N sodium hydroxide solution and 16 ml of tetrahydrofuran are stirred for 2 hours at room temperature. The solution which has formed is concentrated to one half of its volume in vacuo and is then extracted 2 times with 50 ml of diethyl ether each time. On standing a precipitate crystallizes out of the aqueous solution, which is filtered off and washed with little water and diethyl ether. 2.44 g of the title compound of m.p. 94° to 97° C. are obtained by gradual concentration of the filtrates to a small volume.

reactant | 2-[4-(3-trifluoromethylphenoxy)butyl]oxirane-2-carboxylic acid ethyl ester | 4.0 g | C(C)OC(=O)C1(OC1)CCCCOC1=CC(=CC=C1)C(F)(F)F | C16H19F3O4
reactant | sodium hydroxide | 1 N, 12 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
product | Sodium 2-[4-(3-trifluoromethylphenoxy)butyl]oxirane-2-carboxylate | 2.44 g | FC(C=1C=C(OCCCCC2(OC2)C(=O)[O-])C=CC1)(F)F.[Na+] | InChI=1S/C14H15F3O4.Na/c15-14(16,17)10-4-3-5-11(8-10)20-7-2-1-6-13(9-21-13)12(18)19;/h3-5,8H,1-2,6-7,9H2,(H,18,19);/q;+1/p-1
